US04372953
4-(1-Methyl-1,2,3,4-tetrazol-5-yl)thiobutyl 1-methyl-1,2,3,4-tetrazol-5-yl sulfone (1 g) is dissolved in formic acid (10 ml), and thereto is added with stirring 30% hydrogen peroxide (0.4 g) at room temperature, and the mixture is stirred for 3 hours. Water is added to the mixture and the precipitated crystals are collected by filtration and recrystallized from ethanol-chloroform to give 4-(1-methyl-1,2,3,4-tetrazol-5-yl)sulfinylbutyl 1-methyl-1,2,3,4-tetrazol-5-yl sulfone (0.4 g) as colorless scales, m.p. 147°-149° C.

reactant | 4-(1-Methyl-1,2,3,4-tetrazol-5-yl)thiobutyl 1-methyl-1,2,3,4-tetrazol-5-yl sulfone | 1 g | CN1N=NN=C1S(=O)(=O)CCCCSC1=NN=NN1C | C8H14N8O2S2
reactant | hydrogen peroxide | 0.4 g | OO | H2O2
reactant | Water | O | H2O
solvent | formic acid | 10 ml | C(=O)O | CH2O2
product | 4-(1-methyl-1,2,3,4-tetrazol-5-yl)sulfinylbutyl 1-methyl-1,2,3,4-tetrazol-5-yl sulfone | 0.4 g | CN1N=NN=C1S(=O)(=O)CCCCS(=O)C1=NN=NN1C | C8H14N8O3S2
